US07202232B2
A mixture of 4-(5-hydroxy-3-trifluoromethyl-pyrazol-1-yl)-benzoic acid ethyl ester (1 g, 3.3 mmol), difluorochloromethane (3 g, 34 mmol) and potassium carbonate (0.5 g, 3.6 mmol) in DMF (9 mL) was stirred in a sealed tube at −78° C. for 3 minutes and then at 100° C. for 12 hours. The mixture was cooled to −78° C. and the precipitate was removed by filtration and washed with DMF (3×1 mL). The filtrate and washings were poured into cold water (200 mL). The resulting suspension was transferred into a centrifuge tube and the contents were centrifuged at room temperature for 10 minutes and filtered to give 4-(5-difluoromethoxy-3-trifluoromethyl-pyrazol-1-yl)-benzoic acid ethyl ester (1.1 g, 94% yield) as a yellow solid.

reactant | 4-(5-hydroxy-3-trifluoromethyl-pyrazol-1-yl)-benzoic acid ethyl ester | 3.3 mmol, 1 g | C(C)OC(C1=CC=C(C=C1)N1N=C(C=C1O)C(F)(F)F)=O | C13H11F3N2O3
reactant | difluorochloromethane | 34 mmol, 3 g | FC(Cl)F | CHClF2
reactant | potassium carbonate | 3.6 mmol, 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 4-(5-difluoromethoxy-3-trifluoromethyl-pyrazol-1-yl)-benzoic acid ethyl ester | 1.1 g, 94% yield | C(C)OC(C1=CC=C(C=C1)N1N=C(C=C1OC(F)F)C(F)(F)F)=O | C14H11F5N2O3
